US08710061B2
A mixture of 2-(2-methoxyphenyl)cyclopentanone (6.64 g, 34.9 mmol), dimethyl carbonate (58.8 ml, 698 mmol) and MeOH (4 drops) was stirred while sodium hydride (3.07 g, 60% wt, 77 mmol) was added slowly at 0° C. The mixture was warmed to RT and then heated to reflux for 2 hr and then stirred at RT overnight. The reaction was quenched with 1 N HCl (77 mL, 77 mmol) and extracted with ethyl acetate. The organic extracts were washed with water, dried with brine, and concentrated in vacuo. The crude product was purified by flash chromatography (SG, 0 to 75% EtOAc/Hexane) to get methyl 3-(2-methoxyphenyl)-2-oxocyclopentanecarboxylate (5.3 g, 21.35 mmol, 61.2% yield). LC-MS (M+Na)+=271.1. 1H NMR (500 MHz, CD3OD) δ 7.26-7.16 (m, 1H), 7.08 (d, J=7.3 Hz, 1H), 6.92-6.84 (m, 2H), 3.73-3.69 (m, 3H), 3.68 (s, 3H), 3.60-3.49 (m, 1H), 3.49-3.40 (m, 1H), 2.40-2.31 (m, 1H), 2.31-2.17 (m, 2H), 2.16-2.01 (m, 1H).

reactant | 2-(2-methoxyphenyl)cyclopentanone | 34.9 mmol, 6.64 g | COC1=C(C=CC=C1)C1C(CCC1)=O | C12H14O2
reactant | dimethyl carbonate | 698 mmol, 58.8 ml | C(OC)(OC)=O | C3H6O3
reactant | sodium hydride | [H-].[Na+]
reactant | HCl | 77 mmol, 1 N, 77 mL | Cl | ClH
catalyst | MeOH | 4 drops | CO | CH4O
product | methyl 3-(2-methoxyphenyl)-2-oxocyclopentanecarboxylate | 21.35 mmol, 5.3 g, 61.2% yield | COC1=C(C=CC=C1)C1C(C(CC1)C(=O)OC)=O | C14H16O4
